US09216981B2
Step 11: Preparation of N-(3-(3-(9H-purin-6-yl)pyridin-2-ylamino)-2,4-difluorophenyl)-1-methyl-1H-indole-4-sulfonamide
1M aqueous hydrochloric acid solution was added into the N-(2,4-difluoro-3-(3-(9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)pyridin-2-ylamino)phenyl)-1-methyl-1H-indole-4-sulfonamide (20 mg, 0.033 mmol) prepared at Step 10 and stirred for 2 hours. After the reaction, the reactant was washed with an aqueous solution of sodium hydrogen carbonate and salt water. After extraction with ethylacetate, the organic layer was dried with sulfuric anhydride magnesium and vacuum concentrated, and then refined by means of column chromatography, so that the target compound was obtained.

reactant | hydrochloric acid | 1M | Cl | ClH
reactant | N-(2,4-difluoro-3-(3-(9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)pyridin-2-ylamino)phenyl)-1-methyl-1H-indole-4-sulfonamide | 0.033 mmol, 20 mg | FC1=C(C=CC(=C1NC1=NC=CC=C1C1=C2N=CN(C2=NC=N1)C1OCCCC1)F)NS(=O)(=O)C=1C=2C=CN(C2C=CC1)C | C30H26F2N8O3S
product | N-(3-(3-(9H-purin-6-yl)pyridin-2-ylamino)-2,4-difluorophenyl)-1-methyl-1H-indole-4-sulfonamide | N1=CN=C2NC=NC2=C1C=1C(=NC=CC1)NC=1C(=C(C=CC1F)NS(=O)(=O)C=1C=2C=CN(C2C=CC1)C)F | C25H18F2N8O2S
